US07157577B2
5-Fluoroindole (3 g, 22.2 mmol) in glacial acetic acid (35 mL) was treated with sodium cyanoborohydride (2.79 mg, 44.4 mmol) portionwise at room temperature with stirring. After one hour, the reaction was diluted with water and basified with 40% sodium hydroxide with cooling. The mixture was extracted 3 times with dichloromethane, dried and concentrated to give 5-fluoroindoline. It was used in the next step without further purification. 1H-NMR (300 MHz, dimethylsulfoxide-d6) δ 6.86 (m, 1H), 6.68 (dt, 1H), 6.42 (dd, 1H), 5.32 (br s, 1H, NH), 3.38 (m, 2H, CH2), 2.87 (t, 2H, CH2).

reactant | 5-Fluoroindole | 22.2 mmol, 3 g | FC=1C=C2C=CNC2=CC1 | C8H6FN
reactant | sodium cyanoborohydride | 44.4 mmol, 2.79 mg | C(#N)[BH3-].[Na+]
solvent | acetic acid | 35 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
product | 5-fluoroindoline | FC=1C=C2CCNC2=CC1 | C8H8FN
